US09447090B2
To a solution of 280 mg of ethyl 2-(4-cyanophenyl)-2-methylpropanoate in 10 ml of ethanol were added 2 mL of 1 M hydrochloric acid and 120 mg of 10% palladium-carbon in this order, followed by stirring for 3 hours under a hydrogen atmosphere at 3 atm. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure and dried to obtain 345 mg of, ethyl 2-[4-(aminomethyl)phenyl]-2-methylpropanoate hydrochloride.

reactant | ethyl 2-(4-cyanophenyl)-2-methylpropanoate | 280 mg | C(#N)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C13H15NO2
reactant | hydrochloric acid | 1 M, 2 mL | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 120 mg | [C].[Pd]
product | ethyl 2-[4-(aminomethyl)phenyl]-2-methylpropanoate hydrochloride | Cl.NCC1=CC=C(C=C1)C(C(=O)OCC)(C)C | InChI=1S/C13H19NO2.ClH/c1-4-16-12(15)13(2,3)11-7-5-10(9-14)6-8-11;/h5-8H,4,9,14H2,1-3H3;1H
